US04405635
1,3-Dihydro-4-[4-(dimethylamino)benzoyl]-5-methyl-2H-imidazol-2-one
A mixture of 11.0 g (0.05 mole) of 1,3-dihydro-4-(4-fluorobenzoyl)-5-methyl-2H-imidazol-2-one, 100 ml of 30% aqueous solution of dimethylamine and 200 ml of ethanol is heated in a pressure bomb at 130°-135° C. for 22 hours. The mixture is cooled, the solid is collected and recrystallized from isopropanol-water to give the title compound. M.P. >310° C. λ(max)(methanol) 364 nm (ε=23,300).

reactant | 1,3-dihydro-4-(4-fluorobenzoyl)-5-methyl-2H-imidazol-2-one | 0.05 mole, 11.0 g | FC1=CC=C(C(=O)C=2NC(NC2C)=O)C=C1 | C11H9FN2O2
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1,3-Dihydro-4-[4-(dimethylamino)benzoyl]-5-methyl-2H-imidazol-2-one | CN(C1=CC=C(C(=O)C=2NC(NC2C)=O)C=C1)C | C13H15N3O2
